US03966930
12 grams of N,N-dimethyl-7-fluoro-phenothiazine-2-sulphonamide were dissolved in 50 milliliters of dry dimethylformamide, 1.9 grams of 50% sodium hydride in oil added and the mixture stirred for 1 hour. 7.2 grams of 1-(3-chloropropyl)-4-methylpiperazine were then added and the mixture heated for two hours on a steam bath. Then the mixture was poured onto crushed ice, the resulting mixture extracted with ether, the ether phase washed, dried over anhydrous magnesium sulphate and the ether evaporated. 13 grams of 2-dimethylsulphamoyl-7-fluoro-10-(3-(4-methylpiperazin-1-yl)propyl)phenothiazine was thus obtained as a yellow oil. The dimaleate was made from an ethanol solution of the base and melted at 166°-169° Centigrade.

reactant | N,N-dimethyl-7-fluoro-phenothiazine-2-sulphonamide | 12 grams | CN(S(=O)(=O)C1=CC=2NC3=CC=C(C=C3SC2C=C1)F)C | C14H13FN2O2S2
reactant | sodium hydride | 1.9 grams | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-methylpiperazine | 7.2 grams | ClCCCN1CCN(CC1)C | C8H17ClN2
solvent | dimethylformamide | 50 milliliters | CN(C=O)C | C3H7NO
product | 2-dimethylsulphamoyl-7-fluoro-10-(3-(4-methylpiperazin-1-yl)propyl)phenothiazine | 13 grams | CN(S(=O)(=O)C1=CC=2N(C3=CC=C(C=C3SC2C=C1)F)CCCN1CCN(CC1)C)C | C22H29FN4O2S2
